US08466186B2
(c) N-(3-Amino-4-trifluoromethoxy-benzyl)-2,2-dimethyl-propionamide
A mixture of N-(3-nitro-4-trifluoromethoxy-benzyl)-2,2-dimethyl-propionamide (3.4 g, 11 mmol), Fe (3.7 g, 66 mmol), saturated aqueous NH4Cl-solution (35 mL) and EtOH (170 mL) was refluxed for 30 min. The mixture was concentrated, treated with water and the pH was adjusted to ˜8. The mixture was extracted with EtOAc and the organic layer was dried over Na2SO4, filtered and concentrated. The residue was treated with PE and the sub-title compound was filtered off. Yield: 2.7 g (88%).

reactant | N-(3-nitro-4-trifluoromethoxy-benzyl)-2,2-dimethyl-propionamide | 11 mmol, 3.4 g | [N+](=O)([O-])C=1C=C(CNC(C(C)(C)C)=O)C=CC1OC(F)(F)F | C13H15F3N2O4
reactant | NH4Cl | 35 mL | [NH4+].[Cl-]
catalyst | Fe | 66 mmol, 3.7 g | [Fe] | Fe
solvent | EtOH | 170 mL | CCO | C2H6O
product | N-(3-Amino-4-trifluoromethoxy-benzyl)-2,2-dimethyl-propionamide | NC=1C=C(CNC(C(C)(C)C)=O)C=CC1OC(F)(F)F | C13H17F3N2O2
